Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms ___ is a ___ with h/o dementia, CVA, TIA, carotid 
stenosis, HLD p/w pain and hematoma after fall. Patient is a 
poor historian and does not recall falling. This morning, a 
staff member in her nursing facility saw the patient sitting in 
chair with vomit on her clothing and on the carpet. As the staff 
was
changing the patient's clothing, she noted hematoma on the 
patient's right head and right back. The staff member thinks the 
patient fell this morning but is not sure. Patient is in severe 
pain with movement.  EMS brought her to BIDP for initial 
evaluation, where she was found to have a R parietal subgaleal
hematoma, multiple R rib fx with a small hemorrhagic effusion, 
and a large R flank hematoma.

Current the patient is resting comfortably and denies pain or 
any complaints. She does not recall the fall and is currently 
confused as to her location. No trouble breathing. Complete 
history limited by patient's cognitive impairment.

 
Past Medical History:
Past Medical History (per record):
- Dementia
- CVA, TIA
- HLD
- Arthritis
- Spinal stenosis

Past Surgical History:
None per record
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:
Vitals: 99.5 188/99 20 95% RA
GEN: Alert and follows commands, able to state name, but not
oriented to time or place. NAD.
HEENT: Right parietal scalp hematoma with ecchymosis, no active
hemorrhage or evidence of prior hemorrhage, no laceration, no
skull depression. No scleral icterus, EOMI. OP clear, MMM.
Neck: No spinal or paraspinal tenderness, trachea midline
CV: RRR, No M/G/R
PULM: Mild decreased breath sounds in lower R thorax. No 
crackles
or wheezes. Large right chest wall/flank hematoma with soft
tissue edema and focal areas of crepitus. 
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
MSK: ___ strength in upper and lower extremities
EXTREMITIES: No ___ edema, ___ warm and well perfused
NEURO: CNII-XII intact without appreciable focal deficits.
Sensation grossly intact.

Discharge Physical Exam:
VS: 97.5 PO 119 / 75 70 18 96 Ra 
N: Awake, Alert, oriented to person and time. Moves all 
extremities. Follows commands. 
HEENT: Right parietal scalp hematoma with ecchymosis. 
CV: RRR
PULM: Clear to auscultation bilaterally.
ABD: Soft, non-tender, non-distended. Active bowel sounds. Foley 
catheter to gravity. Clear yellow urine. Large right chest 
wall/flank hematoma with soft
tissue edema and focal areas of crepitus.
Ext: Right upper extremity ecchymosis triceps area. No edema.
 
Pertinent Results:
___ 06:20AM BLOOD WBC-7.9 RBC-4.41 Hgb-13.7 Hct-41.4 MCV-94 
MCH-31.1 MCHC-33.1 RDW-13.5 RDWSD-46.3 Plt ___
___ 05:55PM BLOOD WBC-9.2 RBC-4.43 Hgb-13.7 Hct-41.7 MCV-94 
MCH-30.9 MCHC-32.9 RDW-13.5 RDWSD-46.4* Plt ___
___ 07:10AM BLOOD WBC-10.4*# RBC-4.48 Hgb-14.2 Hct-42.0 
MCV-94 MCH-31.7 MCHC-33.8 RDW-13.5 RDWSD-46.2 Plt ___
___ 05:55PM BLOOD ___ PTT-31.2 ___
___ 06:20AM BLOOD Glucose-92 UreaN-21* Creat-0.6 Na-139 
K-4.1 Cl-99 HCO3-25 AnGap-15
___ 05:55PM BLOOD Glucose-138* UreaN-22* Creat-0.7 Na-138 
K-4.0 Cl-99 HCO3-23 AnGap-16
___ 07:10AM BLOOD Glucose-126* UreaN-10 Creat-0.6 Na-139 
K-4.2 Cl-97 HCO3-20* AnGap-22*
___ 06:20AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.1
___ 05:55PM BLOOD Calcium-9.0 Phos-3.6 Mg-2.1
___ 07:10AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.1
___ 07:01AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:53AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD*
___ 12:53 am URINE

                           **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

CT head
- small subgaleal hematoma overlying right parietal bone. No
intracranial hemorrhage

CT chest w/contrast
- lungs: small R hemorrhagic effusion, emphysematous changes. no
pneumothorax. atelectasis in posterior L lung. R lateral 
___
rib fractures (nondisplaced in ___ and ___, mild-mod displaced
in ___ and ___. chest wall hematoma on posterior lateral R 
chest
wall with areas of subcutaneous air.

CT cervical spine
- degenerative changes

CT abd/pelv
- large R inguinal hernia containing nondilated loops of small
bowel and fat.
- In discussion with in-house radiologist, areas of the liver
adjacent to the fractures with heterogenicity, likely scatter
artifact but cannot definitively rule out liver contusion or
laceration. No free fluid in abdomen to otherwise suggest liver
laceration.

___: CXR
Heart size and mediastinum are stable.  Bibasal opacities are 
unchanged.  No overt pulmonary edema.  No interval progression 
of pleural effusion.  Small right apical pneumothorax is 
suspected, attention on the subsequent studies is recommended. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with history of dementia and TIA on 
Plavix who presented to the emergency department after a 
suspected fall at her nursing facility. She had CT scan and 
found to have a right parietal subgaleal hematoma, multiple 
right sided rib fractures with small hemorrhagic effusion, and 
large right flank hematoma. She was admitted for respiratory 
monitoring, neurologic monitoring, and pain control. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a Tylenol and 
lidocaine patches. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI/GU/FEN: The patient was given a regular diet with good 
tolerability.  Patient's intake and output were closely 
monitored. The patient was unable to void and bladder scan 
showed 1 liter of urine. Foley catheter was placed with good 
return of urine. Urology placed catheter for "difficult catheter 
placement" and recommended foley in place for ___ days and 
voiding trial at rehab facility. If patient unable to void, 
foley catheter should be replaced and patient should be referred 
to urology outpatient. Per urology, nursing should be able to 
place future catheters and placing a bed pan/fracture pan under 
hips to assist with placement. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. The patient's Plavix was 
held due to increased risk of life threatening bleeds with 
frequent falls. 
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

The patient was seen and evaluated by physical and occupational 
therapy who recommended discharge to rehab. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating with assistance and wlaker, making adequate urine 
with foley catheter, and pain was well controlled.  The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan. 
The patient's daughter was also notified and updated on the 
patient status and discharge plan. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Citalopram 10 mg PO DAILY 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Losartan Potassium 25 mg PO DAILY 
6. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM rib fx's  
4.  Senna 17.2 mg PO HS  
5.  Tamsulosin 0.4 mg PO QHS urinary retention Duration: 30 Days 

Assess need to continue medication when voiding appropriately.   

6.  Aspirin 81 mg PO DAILY  
7.  Citalopram 10 mg PO DAILY  
8.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
9.  Losartan Potassium 25 mg PO DAILY  
10.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right rib fractures with small hemothorax 
Subgaleal hematoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a fall sustaining right rib fractures and a small bleed 
under your scalp. You were closely monitored and your blood 
counts remained stable. You were evaluated by the physical 
therapist who recommend discharge to acute rehab to regain your 
strength and mobility. 

Your Plavix medication, a blood thinner, was held due to the 
bleed in your head and risk of bleeding with frequent falls. 
Please discuss the risk/benefit of this medication with your 
primary care provider before restarting. 

You were unable to spontaneously urinate and required a foley 
catheter. This will be removed in ___ days and you will be given 
a trial to urinate on your own. If you are unable to urinate a 
foley catheter will be replaced and you should follow up with 
outpatient urology for further assessment. 

You are now doing better, tolerating a regular diet, and ready 
to be discharged to rehab to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

RIB FRACTURES:
* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___